US06174881B1
59.5 g of 7-bromo-5-(2-pyridyl)-3H-1,4-benzodiazepine-2(1H)-thione (J. B. Hester, jr., A. D. Rudzik & P.F . Von Voigtlander, J. Med. Chem., 1980,23, 392-402) in 800 ml of tetrahydrofuran were added to 1.0 l of 25% aqueous ammonia solution and 300 ml of methanol. The mixture was stirred at room temperature for 16 h., with the solution which formed being concentrated to about 500 ml in a vacuum. The crystals were filtered off, washed with water and dried. There were obtained 52 g of 2-amino-7-bromo-5-(2-pyridyl)-3H-1,4-benzodiazepine which was used without further purification for the next step. A sample recrystallized from dioxan melted at 213-215° C. (dec.).

reactant | 7-bromo-5-(2-pyridyl)-3H-1,4-benzodiazepine-2(1H)-thione | 59.5 g | BrC=1C=CC2=C(C(=NCC(N2)=S)C2=NC=CC=C2)C1 | C14H10BrN3S
reactant | ammonia | 1.0 l | N | H3N
reactant | methanol | 300 ml | CO | CH4O
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
product | 2-amino-7-bromo-5-(2-pyridyl)-3H-1,4-benzodiazepine | 52 g | NC1=NC2=C(C(=NC1)C1=NC=CC=C1)C=C(C=C2)Br | C14H11BrN4
